US08791255B2
The product is prepared according to the procedure described in example 5, using 1 g of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 978 mg of 2-hydroxy-3-(trifluoromethyl)aniline and 1.2 g of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 6 ml of pyridine and 8 ml of N,N-dimethylformamide. 600 mg of N-[2-hydroxy-3-(trifluoromethyl)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a beige solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 1 g | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2-hydroxy-3-(trifluoromethyl)aniline | 978 mg | OC1=C(N)C=CC=C1C(F)(F)F | C7H6F3NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.2 g | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N-[2-hydroxy-3-(trifluoromethyl)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 600 mg | OC1=C(C=CC=C1C(F)(F)F)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C17H17F3N4O4
